US06759429B2
Under nitrogen atmosphere, to a solution of 3-thiophene-carboxyaldehyde (9.81 g) in toluene (200 mL) were added p-toluene-sulfonic acid monohydrate (190 mg) and ethylene glycol (6.52 g), and the mixture was stirred at 111° C. for 5 hours. The mixture was cooled to room temperature, washed twice with an aqueous NaHCO3 solution, dried over MgSO4. The solvent was evaporated under reduced pressure to give 3-(1,3-dioxolan-2-yl)thiophene (10.4 g).

reactant | p-toluene-sulfonic acid monohydrate | 190 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethylene glycol | 6.52 g | C(CO)O | C2H6O2
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1,3-dioxolan-2-yl)thiophene | 10.4 g | O1C(OCC1)C1=CSC=C1 | C7H8O2S
